US04232016
A solution of 3.07 g. of 2-(α-amino-α-fluoroacetamido)-5-chlorobenzophenone, obtainable from 2-(α-bromo-α-fluoroacetamido)-5-chlorobenzophenone and liquid NH3, in 35 ml. of pyridine is boiled for 2 hours and evaporated. Working up in the customary manner gives 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one, m.p. 235° (decomposition).

reactant | 2-(α-amino-α-fluoroacetamido)-5-chlorobenzophenone | NC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)F | C15H12ClFN2O2
reactant | 2-(α-bromo-α-fluoroacetamido)-5-chlorobenzophenone | BrC(C(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)F | C15H10BrClFNO2
reactant | NH3 | N | H3N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=CC=CC=C1)C=C(C=C2)Cl)=O | C15H10ClFN2O
